US04178422
Acetamidoethylene monomer prepared in Part A (5 moles) is added to a 5 liter agitated reactor along with 2.7 moles of vinylsulfonate (sodium salt) and 16 g of AIBN. The materials are placed in a 5 liter reaction flask and heated to 75° C. while d oxygenating the flask. Temperature is increased to 80° C. and held there for 180 minutes. The reaction mixture, a solution of a copolymer of vinylacetamide and vinylsulfonate, is dissolved in water. This solution is purified by filtration and ultrafiltration in an Amicon ultrafiltration unit in the presence of added NaCl. Low molecular weight impurities are removed leaving a solution of vinylacetamide-vinylsulfonate as retentate.

reactant | Acetamidoethylene | C(C)(=O)NC=C | C4H7NO
reactant | vinylsulfonate | 2.7 moles | C(=C)S(=O)(=O)[O-]
reactant | AIBN | 16 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | vinylacetamide vinylsulfonate | C(=C)CC(=O)N.C(=C)S(=O)(=O)[O-] | InChI=1S/C4H7NO.C2H4O3S/c1-2-3-4(5)6;1-2-6(3,4)5/h2H,1,3H2,(H2,5,6);2H,1H2,(H,3,4,5)/p-1
